US06034066
Preparation of N,O-dimethyl (tert-butoxycarbonyl amino-L-alanyl-L-leucyl) hydroxylamine
A solution of Boc-Ala-OH (46 mmol) and N-methyl morpholine (46 mmol) in THF (20 ml) was added to a pre cooled solution of isobutyl chloroformate (46 mmol) in THF (30 ml) under nitrogen at between -10 and -15° C. over 30 minutes. The reaction was stirred at -10° C. for 1 hour after which time a solution of N-methyl morpholine (46 mmol) and HCl.H2N-Leu-N(OMe)Me (41.8 mmol) in 1,4-dioxane (20 ml) was added drop wise slowly. The reaction was left for 1 hour at -10° C. and then allowed to warm up to room temperature. After concentrating the solution under high vacuum, water (50 ml) and ethylacetate (200 ml) was added. The organic layer was then washed with 0.1 M citric acid solution (4×50 ml), then saturated sodium bicarbonate (4×50 ml), dried over magnesium sulphate and then concentrated under vacuum to give the product.

reactant | Boc-Ala-OH | 46 mmol | N([C@@H](C)C(=O)O)C(=O)OC(C)(C)C | C8H15NO4
reactant | N-methyl morpholine | 46 mmol | CN1CCOCC1 | C5H11NO
reactant | isobutyl chloroformate | 46 mmol | ClC(=O)OCC(C)C | C5H9ClO2
reactant | N-methyl morpholine | 46 mmol | CN1CCOCC1 | C5H11NO
reactant | HCl.H2N-Leu-N(OMe)Me | 41.8 mmol | N([C@@H](CC(C)C)C(=O)N(OC)C)N.Cl
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | THF | 30 ml | C1CCOC1 | C4H8O
solvent | 1,4-dioxane | 20 ml | O1CCOCC1 | C4H8O2
product | N,O-dimethyl (tert-butoxycarbonyl amino-L-alanyl-L-leucyl) hydroxylamine | CN(OC)C([C@@H](NC([C@@H](N(N)C(=O)OC(C)(C)C)C)=O)CC(C)C)=O | C16H32N4O5
